US08426420B2
iii) 3-Benzyloxycarbonylamino-pyrrolidine-1-carboxylic acid butyl ester
To a solution of 3.20 g pyrrolidin-3-yl-carbamic acid benzyl ester hydrotrifluoracetate in 50 ml dichloromethane were added dropwise 3.7 ml triethylamine and 1.3 ml butylchloro-formate at 0° C. After stirring for 12 h the reaction mixture was diluted with dichloromethane, washed with 0.1 M HCl, saturated NaHCO3 and brine. The crude product thus obtained was purified by flash chromatography on silica using ethyl acetate/heptane 1:2 as eluent.

reactant | pyrrolidin-3-yl-carbamic acid benzyl ester | 3.20 g | C(C1=CC=CC=C1)OC(NC1CNCC1)=O | C12H16N2O2
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | butylchloro-formate | 1.3 ml | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Benzyloxycarbonylamino-pyrrolidine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CC(CC1)NC(=O)OCC1=CC=CC=C1 | C17H24N2O4
